US04837204
Boc-6-aminohexanoic Acid
A mixture of 3.0 g (0.02 mol) of 6-aminohexanoic acid, 5.04 g (0.02 mol) of di-t-butyldicarbonate and 3.84 g (0.05 mmol) of NaHCO3 in 160 ml of 1:1 H2O/tetrahydrofuran was stirred vigourously for 24 h. After concentration of the solvent, the mixture was acidified with HCl, saturated with NaCl, extracted with ethyl acetate, dried over MgSO4 and concentrated in vacuo to give the desired product (Rf 0.48, 9:1 chloroform/methanol).

reactant | 6-aminohexanoic acid | 0.02 mol, 3.0 g | NCCCCCC(=O)O | C6H13NO2
reactant | di-t-butyldicarbonate | 0.02 mol, 5.04 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 0.05 mmol, 3.84 g | C(=O)(O)[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | NaCl | [Na+].[Cl-]
solvent | H2O tetrahydrofuran | 160 ml | O.O1CCCC1
product | Boc-6-aminohexanoic Acid | C(=O)(OC(C)(C)C)C(C(=O)O)CCCCN | C11H21NO4
